Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Solu-Medrol
 
Attending: ___.
 
Chief Complaint:
worsening MS
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ hx of MS, wheelchair bound, with worsening bilateral lower 
extremity pain in the last six months, referred in by neurology 
for rehab placement. Pt denies any acute changes. No recent 
illness. Has had numbness in her groin, difficulty controlling 
urine x about 6 months. Has had negative imaging since then. 
States she is very depressed and has had thoughts about killing 
herself but does not think she would be able to do it.

In the ED, initial VS were 98.1 118 148/94 17 93% RA.  

Exam notable for baseline neuro exam (intact mental status with 
depressed mood, no cranial nerve deficits, bilateral lower 
extremity weakness in the range of ___ and allodynia greater 
in her lower extremities but with some upper extremity 
involvement).  

Labs showed UA with lg leuk, nitr, wbc, bacteria, and yeast. 
CBC, BMP unremarkable. 

Imaging showed CXR without acute process.
Received Bactrim in addition to home meds.  
Transfer VS were 98.1 80 ___ 99% RA .  

Neuro, ___, CM consulted in ED. Recommend DC to rehab when 
medically cleared. Unable to find placement. Decision was made 
to admit to medicine for further management.  

On arrival to the floor, patient reports 3 days of dysuria and 
abdominal pain. Noted odor to urine in ED. No fevers or chills.  
 

 
Past Medical History:
Cocaine addiction - last relapse ___
Psoriasis
MS - diagnosed in ___, follows with Dr. ___ at ___ 
 
Social History:
___
Family History:
Mother: has stage breast IV cancer and DM
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
VS: 98.1PO ___ 20 95 RA  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB in anterior lung fields 
ABDOMEN: nondistended, +BS, mild suprapubic tenderness
EXTREMITIES: lower extremities cool
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, ___ strength in UE, 0-1/5 strength in 
___ b/l (R>L)  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE PHYSICAL EXAM
========================
VS - 98.2 97.8 | 120-151/91-101 | ___ | 18 | 96-100%RA
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM 
NECK: supple neck
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB in anterior lung fields 
ABDOMEN: soft NT/ND +BS 
EXTREMITIES: lower extremities cool
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII grossly intact, ___ strength in UE, 0-1/5 
strength in ___ b/l (R>L)  
 
Pertinent Results:
ADMISSION LABS
==============
___ 06:43PM BLOOD WBC-9.6 RBC-4.64 Hgb-15.2 Hct-46.5* 
MCV-100* MCH-32.8* MCHC-32.7 RDW-16.7* RDWSD-61.1* Plt ___
___ 06:43PM BLOOD Neuts-63.2 ___ Monos-8.3 Eos-1.3 
Baso-0.4 Im ___ AbsNeut-6.04 AbsLymp-2.51 AbsMono-0.79 
AbsEos-0.12 AbsBaso-0.04
___ 06:43PM BLOOD Glucose-99 UreaN-12 Creat-0.6 Na-137 
K-3.9 Cl-101 HCO3-23 AnGap-17
___ 06:43PM BLOOD ALT-23 AST-42* AlkPhos-73 TotBili-1.0
___ 06:43PM BLOOD Lipase-16
___ 06:43PM BLOOD Albumin-4.2
___ 06:43PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:14PM URINE Color-Yellow Appear-Cloudy Sp ___
___ 10:14PM URINE Blood-MOD Nitrite-POS Protein-100 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-2* pH-6.5 Leuks-LG
___ 10:14PM URINE RBC-46* WBC->182* Bacteri-MANY Yeast-NONE 
Epi-6
___ 10:14PM URINE Mucous-MANY
___ 10:14PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-POS* mthdone-NEG

MICRO
===============
___ 10:14 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMIKACIN--------------   <=2 S
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
TOBRAMYCIN------------     8 I
TRIMETHOPRIM/SULFA----  =>16 R

STUDIES
===============
___ CXR 
 IMPRESSION:  
 Limited study due to patient rotation and positioning. No acute 

 cardiopulmonary abnormality. 

DISCHARGE LABS
===============
NONE
 
Brief Hospital Course:
___ yo woman with medical history of MS who presents for case 
management evaluation as she has worsening bilateral lower 
extremity pain and weakness in the last six months.

Regarding her MS, her neurological exam is at her baseline (per 
neurology consultants), consisting of intact mental status with 
depressed mood, no cranial nerve deficits, bilateral lower 
extremity weakness in the range of ___ and allodynia greater 
in her lower extremities but with some upper extremity 
involvement. She was continued on her home depakote, pregabalin, 
and baclofen.

Regarding her urinary tract infection, she presented with 3 days 
of dysuria and UA consistent with UTI, possibly a complication 
of her MS, as she does not straight cath, but uses diapers. 
Possible contribution of infection to MS flare. Patient was 
initiated on bactrim empirically, but was subsequently 
transitioned to macrobid (E. coli resistant to TMP-SMX). Day 1 
of antibiotics = ___. Plan for 7 day total course for 
complicated UTI.

She is being discharged to a rehabilitation program, and we 
expect that her needs will require less than a 30 day stay in 
rehab.

TRANSITIONAL ISSUES:
[] Patient started on Macrobid for UTI, day ___ for a 7 day 
course, to be completed ___.

#CODE: Full (presumed)
#CONTACT: Fiance - ___ ___ 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Hydrocortisone Cream 2.5% 1 Appl TP DAILY:PRN psoriasis 
2. Divalproex (EXTended Release) 250 mg PO BID 
3. Pregabalin 100 mg PO BID 
4. Lidocaine 5% Ointment 1 Appl TP BID:PRN pain 
5. Baclofen 20 mg PO BID 
6. OxyCODONE--Acetaminophen (5mg-325mg) ___ TAB PO Q6H:PRN 
transfers only 
7. Metoclopramide 10 mg PO TID:PRN stomach cramping 
8. Cyanocobalamin 500 mcg PO BID 
9. Vitamin D 4000 UNIT PO DAILY 

 
Discharge Medications:
1.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H 
Will need ___ dose on ___. 
RX *nitrofurantoin monohyd/m-cryst 100 mg 1 capsule(s) by mouth 
twice a day Disp #*11 Capsule Refills:*0 
2.  Baclofen 20 mg PO BID  
3.  Cyanocobalamin 500 mcg PO BID  
4.  Divalproex (EXTended Release) 250 mg PO BID  
5.  Hydrocortisone Cream 2.5% 1 Appl TP DAILY:PRN psoriasis  
6.  Lidocaine 5% Ointment 1 Appl TP BID:PRN pain  
7.  Metoclopramide 10 mg PO TID:PRN stomach cramping  
8.  OxyCODONE--Acetaminophen (5mg-325mg) ___ TAB PO Q6H:PRN 
transfers only 
RX *oxycodone-acetaminophen 5 mg-325 mg 1 tablet(s) by mouth 
q6hr Disp #*28 Tablet Refills:*0 
9.  Pregabalin 100 mg PO BID  
10.  Vitamin D 4000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: Multiple Sclerosis

Secondary Diagnosis: Urinary Tract Infection, uncomplicated

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ 
because your MS became increasingly difficult to control at 
home, and we were helping you find a suitable rehab center to 
help you regain your strength. While you were here, you were 
found to have an infection in your urinary tract, and we started 
you on medications to treat your infection. 

It was a pleasure caring for you!
Your ___ Care Team
 
Followup Instructions:
___